US08754085B2
2,3-Diphenyl-[1,8]naphthyridine
A suspension comprising 2-amino-pyridine-3-carbaldehyde (5 g, 40.9 mmol) and deoxybenzoin (8.03 g, 40.9 mmol) in piperidine (4.46 ml, 45.0 mmol) was heated at 120° C. overnight. The resulting solution was partitioned between DCM (200 ml) and water (200 ml). The organic layer was separated and washed with water (2×150 ml), brine, dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica eluting with 0-50% EtOAc in iso-hexane to afford the title product as a yellow solid;

reactant | 2-amino-pyridine-3-carbaldehyde | 40.9 mmol, 5 g | NC1=NC=CC=C1C=O | C6H6N2O
reactant | deoxybenzoin | 40.9 mmol, 8.03 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | piperidine | 45.0 mmol, 4.46 ml | N1CCCCC1 | C5H11N
product | 2,3-Diphenyl-[1,8]naphthyridine | C1(=CC=CC=C1)C1=NC2=NC=CC=C2C=C1C1=CC=CC=C1 | C20H14N2
